US03998834
To a stirred and cooled (-5° C) suspension of 16.2 parts of 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylic acid in 525 parts of dry 1,1'-oxybisethane, are added dropwise 228.5 parts of 1-lithiumbutane solution 20% in hexane at 0° C. Upon completion, stirring is continued for 3 hours at 0° C. The reaction mixture is decomposed by addition of 300 parts of water. The organic phase is separated, washed with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 2.5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oil residue is dissolved in 2,2'-oxybispropane and the solution is stirred with activated charcoal. The latter is filtered off and the filtrate is evaporated. The residue is crystallized from petroleum-ether, yielding 1-[4-(phenylamino)-1-(2-phenylethyl)-4-piperidinyl]-1-pentanone; mp. 71.3° C.

reactant | 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylic acid | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)O | C20H24N2O2
reactant | 1,1'-oxybisethane | O(CC)CC | C4H10O
reactant | water | O | H2O
reactant | hexane | CCCCCC | C6H14
product | 1-[4-(phenylamino)-1-(2-phenylethyl)-4-piperidinyl]-1-pentanone | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(CCCC)=O | C24H32N2O
